US05221315
Example H2: Preparation of 3-n-butylaminopyridin-2-ylsulfonamide (intermediate No. 2.001)
49.6 ml of n-butylamine are added to a mixture of 8.81 g of 3-fluoropyridin-2-ylsulfonamide in 10 ml of tetrahydrofuran (THF). After the reaction mixture has been stirred for 18 hours at a temperature of 60° C., the reaction mixture is evaporated, the oily residue is triturated with 100 ml of ice/water, the mixture is filtered, and the filtrate is washed first with a little cold water and subsequently with n-hexane. After drying at a temperature of 45° C. in vacuo, 8.8 g of 3-n-butylaminopyridin-2-ylsulfonamide (intermediate No. 2.001) of a melting point of 100°-101° C. are obtained.

reactant | n-butylamine | 49.6 ml | C(CCC)N | C4H11N
reactant | 3-fluoropyridin-2-ylsulfonamide | 8.81 g | FC=1C(=NC=CC1)S(=O)(=O)N | C5H5FN2O2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-n-butylaminopyridin-2-ylsulfonamide | C(CCC)NC=1C(=NC=CC1)S(=O)(=O)N | C9H15N3O2S
